US07429665B2
4-(1-(4-methoxyphenyl)-1H-imidazol-2-yl)pyridine
Preparation 87 (N-(4-methoxyphenyl)isonicotinamide, 1 g, 4.39 mmol) was dissolved in phosphorous oxychloride (POCl3) (5 mL) then phosphorous pentachloride (913 mg, 4.39 mmol) was added. The mixture was heated at 120° C. for 4 h. The POCl3 was removed in vacuo, aminoacetaldehyde dimethyl acetal (9.5 mL, 87.8 mmol) and isopropanol (10 mL) were added, and the mixture was stirred at 23° C. for ca. 16 h. The reaction mixture was concentrated in vacuo and concentrated hydrochloric acid (36.5%, 25 mL) in isopropanol (15 mL) was added. The reaction mixture was heated at 90° C. for 24 h. After cooling to 23° C., aqueous sodium hydroxide (1N) and aqueous sodium bicarbonate were added to obtain pH=8. The mixture was extracted with methylene chloride, was dried (MgSO4), and was filtered and concentrated in vacuo. The residue was purified by silica gel chromatography with ethyl acetate/hexanes/methanol (80:20:0 to 76:19:5) to afford 811 mg (74% yield) of the title compound; diagnostic 13C NMR signals (100 MHz, CDCl3) δ 160.069, 149.952, 144.142, 137.853, 131.004, 129.882, 127.414, 124.977, 122.195, 115.114, 55.808; MS (AP/Cl) 252.4 (M+H)+.

reactant | N-(4-methoxyphenyl)isonicotinamide | COC1=CC=C(C=C1)NC(C1=CC=NC=C1)=O | C13H12N2O2
reactant | phosphorous pentachloride | 4.39 mmol, 913 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | aminoacetaldehyde dimethyl acetal | 87.8 mmol, 9.5 mL | COC(CN)OC | C4H11NO2
reactant | isopropanol | 10 mL | C(C)(C)O | C3H8O
solvent | phosphorous oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-(1-(4-methoxyphenyl)-1H-imidazol-2-yl)pyridine | 811 mg, 74% yield | COC1=CC=C(C=C1)N1C(=NC=C1)C1=CC=NC=C1 | C15H13N3O
